US06184225B2
A mixture of 1-methylpiperazine (7 ml) and 7-(2-bromoethoxy)-6-methoxy4-phenoxyquinazoline (1.0 g, 2.67 mmol), (prepared as described for the starting material in Example 22), was stirred at ambient temperature for 5 hours. The excess 1-methylpiperazine was removed by evaporation and the residue was partitioned between aqueous sodium hydrogen carbonate and methylene chloride. The organic phase was separated, passed through phase separating paper and the volatiles removed by evaporation to give 6-methoxy-7-(2-(4-methylpiperazin-1-yl)ethoxy)-4-phenoxyquinazoline (970 mg, 92%).

reactant | 1-methylpiperazine | 7 ml | CN1CCNCC1 | C5H12N2
reactant | 7-(2-bromoethoxy)-6-methoxy4-phenoxyquinazoline | 2.67 mmol, 1.0 g | BrCCOC1=C(C=C2C(=NC=NC2=C1)OC1=CC=CC=C1)OC | C17H15BrN2O3
product | 6-methoxy-7-(2-(4-methylpiperazin-1-yl)ethoxy)-4-phenoxyquinazoline | 970 mg, 92% | COC=1C=C2C(=NC=NC2=CC1OCCN1CCN(CC1)C)OC1=CC=CC=C1 | C22H26N4O3
